US05399703
Step 2 3-(2-Nitrophenoxy)phenol
A mixture of 28.8 g of 3-(2-nitrophenoxy)anisole and 68 g of pyridine hydrochloride was heated to 160°-170° C. to prepare a homogeneous solution, which was further heated at 195°-205° C. with stirring for one hour. After cooling, the reaction mixture was diluted with water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried and concentrated and the residue was subjected to silica gel and eluted with chloroform to give 23.8 g of the title compound as a light brown oil.

reactant | 3-(2-nitrophenoxy)anisole | 28.8 g | [N+](=O)([O-])C1=C(OC=2C=C(C=CC2)OC)C=CC=C1 | C13H11NO4
reactant | pyridine hydrochloride | 68 g | Cl.N1=CC=CC=C1
solvent | water | O | H2O
product | 3-(2-Nitrophenoxy)phenol | 23.8 g | [N+](=O)([O-])C1=C(OC=2C=C(C=CC2)O)C=CC=C1 | C12H9NO4
